US05935972
5-Bromo-benzofuran-7-carbaldehyde
A solution of (5-bromo-benzofuran-7-yl)-methanol (327 mg) in 1,4-dioxan (20 ml ) was treated with manganese dioxide (371 mg) and heated at reflux for 2 h. The reaction mixture was filtered, the cake was washed with chloroform (30 ml) and the combined filtrates were evaporated in vacuo to give the title compound as an orange solid (309 mg).

reactant | (5-bromo-benzofuran-7-yl)-methanol | 327 mg | BrC=1C=C(C2=C(C=CO2)C1)CO | C9H7BrO2
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 371 mg | [O-2].[O-2].[Mn+4]
product | 5-Bromo-benzofuran-7-carbaldehyde | 309 mg | BrC=1C=C(C2=C(C=CO2)C1)C=O | C9H5BrO2
